* C:\Users\julie\OneDrive\Documents\GitHub\ROBOT\facicule julien\simu\ampli\ampli.asc
* Generated by LTspice 24.1.8 for Windows.
X§U1 N001 N003 N004 0 N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N002 N003 680 tol=10 pwr=250m
R2 N003 0 150 tol=10 pwr=250m
V1 N001 0 SINE(0 1.5 2000 0 0)
V2 N004 0 9
.tran 0 1m 0 1u
.lib UniversalOpAmp1.lib
.backanno
.end
